US09340544B2
(4-Bromo-phenyl)-(2-chloro-9-methyl-9H-purin-6-yl)-amine
Was prepared according to Example 3 from N-(4-bromo-phenyl)-acetamide and 2,6-dichloro-9-methyl-9H-purine.

reactant | N-(4-bromo-phenyl)-acetamide | BrC1=CC=C(C=C1)NC(C)=O | C8H8BrNO
reactant | 2,6-dichloro-9-methyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C)Cl | C6H4Cl2N4
product | (4-Bromo-phenyl)-(2-chloro-9-methyl-9H-purin-6-yl)-amine | BrC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)Cl)C | C12H9BrClN5
